US07538120B2
Step B: Preparation of 8-fluoro-7-(2-fluoro-4-methylphenylamino)-3-trimethylsilanylethynyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester.
THF (1.0 mL), diisopropylamine (95 μL, 0.68 mmol) and trimethylsilylacetylene (38 μL, 0.27 mmol) were added to a mixture of 8-fluoro-7-(2-fluoro-4-methylphenylamino)-3-iodo-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (100 mg, 0.23 mmol), CuI (4.0 mg, 0.023 mmol) and PdCl2(PPh3)2 (16 mg, 0.023 mmol). The solution was stirred at room temperature for 16 hours. The reaction was diluted with ethyl acetate, washed with saturated NaHCO3 (3×), brine (2×), dried over Na2SO4 and concentrated to a dark brown solid. Flash column chromatography (40:1 dichloromethane/MeOH) provide desired product (30 mg, 32%) as a yellow liquid. MS APCI (+) m/z 414 (M+1) detected. 1H NMR (400 MHz, CDCl3) δ 8.77 (s, 1H), 8.61 (s, 1H), 7.80 (s, 1H), 6.90 (m, 3H), 4.00 (s, 3H), 2.32 (s, 3H), 0.33 (s, 9H). 19F NMR (376 MHz, CDCl3)−129.12 (s, 1F), −141.99 (s, 1F).

reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | diisopropylamine | 0.68 mmol, 95 μL | C(C)(C)NC(C)C | C6H15N
reactant | trimethylsilylacetylene | 0.27 mmol, 38 μL | C[Si](C)(C)C#C | C5H10Si
reactant | 8-fluoro-7-(2-fluoro-4-methylphenylamino)-3-iodo-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 0.23 mmol, 100 mg | COC(=O)C=1C(=C(C=2N(C1)C(=CN2)I)F)NC2=C(C=C(C=C2)C)F | C16H12F2IN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.023 mmol, 4.0 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.023 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-fluoro-7-(2-fluoro-4-methylphenylamino)-3-trimethylsilanylethynyl-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 30 mg, 32% | COC(=O)C=1C(=C(C=2N(C1)C(=CN2)C#C[Si](C)(C)C)F)NC2=C(C=C(C=C2)C)F | C21H21F2N3O2Si
